US07632772B2
Ethyne was bubbled into a dichloroethane (DCE, 200 mL) solution of SnCl4 (25 mL, 0.2 mol) and Bu3N (50 mL, 0.2 mol) at −50° C. for 45 min under an Ar atmosphere, followed by adding 2-chlorophenol (6.50 g, 50 mmol). After finishing the addition, the mixture was heated at 60° C. for 1 hr. K2CO3 (13.8 g) and methanol (100 mL) were added, and refluxing for another 30 min. After the reaction was completed, the reaction mixture was poured into a mixture of ethyl ether and saturated aq KHSO4. The precipitated byproducts were filtered through Celite, and the organic materials were extracted with ether three times. The combined organic layers were washed with brine and dried over Na2SO4, then ether was removed by rotovap, 2-chloro-6-vinylphenol was obtained by flash chromatography, 4.83 g of ortho-vinylphenol was obtained (yield: 63%, purity: 97%). The purified ortho-vinylation product could be directly used for next etherification with isopropyliodide (iPrI) in 10 mmol scale.

reactant | Ethyne | C#C | C2H2
reactant | dichloroethane | 200 mL | ClC(C)Cl | C2H4Cl2
reactant | SnCl4 | 0.2 mol, 25 mL | Cl[Sn](Cl)(Cl)Cl
reactant | Bu3N | 0.2 mol, 50 mL | N(CCCC)(CCCC)CCCC | C12H27N
reactant | 2-chlorophenol | 50 mmol, 6.50 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | K2CO3 | 13.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | methanol | 100 mL | CO | CH4O
product | 2-chloro-6-vinylphenol | ClC1=C(C(=CC=C1)C=C)O | C8H7ClO
